US05545755
To a solution of 5.3 g (30 mmol) 5-methoxy-2-tetralone in 45 mL THF in a three-neck round-bottomed flask, equipped with a gas inlet and septum, was added 22 mL LDA (33 mmol, 1.5M in cyclohexane, at -30° C. under a nitrogen atmosphere. The solution was allowed to warm to 0° C. over a thirty-minute period and 3.4 mL (39 mmol) allylbromide was added. TLC analysis was used to monitor the reaction. After five hours of stirring, the reaction mixture was quenched with 10% sodium bisulfate to pH 2-3. After removal of THF under reduced pressure, the mixture was extracted with ethyl acetate (2×1 L) and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The resulting oil was purified by liquid chromatography on 800 g of silica gel 60 (230-400 m), eluting with 1 L of hexane and 5 L of hexane-ethyl acetate (19:1), and collecting 40 mL fractions. Fractions 45-87 gave 2.5 g (32.5%) of pure 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1,1-di-(2-propenyl)-naphthalene as a near colorless oil and fractions 88-140 gave 1.07 g (16.5%) of pure 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-(2-propenyl)naphthalene as a light yellow oil.

reactant | 5-methoxy-2-tetralone | 30 mmol, 5.3 g | COC1=C2CCC(CC2=CC=C1)=O | C11H12O2
reactant | LDA | 22 mL | [Li+].CC(C)[N-]C(C)C
reactant | allylbromide | 39 mmol, 3.4 mL | C(C=C)Br | C3H5Br
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1,1-di-(2-propenyl)-naphthalene | 2.5 g, 32.5% | COC1=C2CCC(C(C2=CC=C1)(CC=C)CC=C)=O | C17H20O2
